US05840911
c) 5-Amidino-1-tetralone hydrochloride
Analogously to Example 29b), 8.6 g (42 mmol) of 5-thiocarbamoyl-1-tetralone are treated with 8.8 g (44 mmol) of triethyloxonium tetrafluoroborate and 2.6 g (49 mmol) of ammonium chloride. There is thus obtained the title compound in the form of slightly pink-colored crystals, MS (FAB): (M+H)+ =189.

reactant | 5-thiocarbamoyl-1-tetralone | 42 mmol, 8.6 g | C(N)(=S)C1=C2CCCC(C2=CC=C1)=O | C11H11NOS
reactant | triethyloxonium tetrafluoroborate | 44 mmol, 8.8 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | ammonium chloride | 49 mmol, 2.6 g | [Cl-].[NH4+]
product | 5-Amidino-1-tetralone hydrochloride | Cl.C(N)(=N)C1=C2CCCC(C2=CC=C1)=O | InChI=1S/C11H12N2O.ClH/c12-11(13)9-5-1-4-8-7(9)3-2-6-10(8)14;/h1,4-5H,2-3,6H2,(H3,12,13);1H
